US08486953B2
b) Preparation of iso-propoxypyridin-3-amine
Palladium hydroxide on carbon (20%, 0.076 g, 0.54 mmol) was added into a solution of 2-iso-propoxy-3-nitro-pyridine (1.97 g, 10.8 mmol) and ammonium formate (3.40 g, 54.0 mmol) in ethanol (100 mL) at ambient temperature. The solution was stirred for 2 hours at 90° C., cooled to ambient temperature, filtered through Celite and washed with MeOH. The filtrate was concentrated in vacuo and triturated from diethyl ether to yield brown oil which was used in the next step without further purification.

reactant | 2-iso-propoxy-3-nitro-pyridine | 10.8 mmol, 1.97 g | C(C)(C)OC1=NC=CC=C1[N+](=O)[O-] | C8H10N2O3
reactant | ammonium formate | 54.0 mmol, 3.40 g | C(=O)[O-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide on carbon | 0.54 mmol, 0.076 g | [OH-].[OH-].[Pd+2]
product | iso-propoxypyridin-3-amine | C(C)(C)OC1=NC=CC=C1N | C8H12N2O
